US07635699B2
To a stirred suspension of 5-(4-chloro-3-fluorophenyl)-2-(2-methoxyphenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carbonitrile (180 mg, 0.46 mmol) in CH2Cl2 (5 mL) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (103 mg, 0.46 mmol) in one portion. The reaction was kept at ambient temperature for 2.5 h, diluted with CH2Cl2 and washed with satd aq NaHCO3 (5×). The organic layer was washed again with brine, dried (Na2SO4) and concentrated under reduced pressure to afford 5-(4-chloro-3-fluorophenyl)-2-(2-methoxyphenyl)-7-methylimidazo[1,2-a]pyrimidine-6-carbonitrile (168 mg, 94%) as a light orange solid.

reactant | 5-(4-chloro-3-fluorophenyl)-2-(2-methoxyphenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carbonitrile | 0.46 mmol, 180 mg | ClC1=C(C=C(C=C1)C1C(=C(NC=2N1C=C(N2)C2=C(C=CC=C2)OC)C)C#N)F | C21H16ClFN4O
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.46 mmol, 103 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-chloro-3-fluorophenyl)-2-(2-methoxyphenyl)-7-methylimidazo[1,2-a]pyrimidine-6-carbonitrile | 168 mg, 94% | ClC1=C(C=C(C=C1)C1=C(C(=NC=2N1C=C(N2)C2=C(C=CC=C2)OC)C)C#N)F | C21H14ClFN4O
